US04283403
3-[3-chloro-4-hydroxy-5-(t-butyl)phenyl]-5-isothiocyanatomethyl-2-isoxazoline
A 25 g. portion of 4-hydroxy-3,5-bis(t-butyl)benzaldoxime was chlorinated as in Example 1 to produce 1 g. of α,3-dichloro-4-hydroxy-5-(t-butyl)benzaldoxime by chlorination and rearrangement. The intermediate was reacted with an excess of allylisothiocyanate to produce 1 g. of product, an oily liquid, NMR singlets at 1.41 and 6.18 ppm., multiplets at 2.92-3.93, 4.68-5.23 and 7.5-7.63 ppm.

reactant | 4-hydroxy-3,5-bis(t-butyl)benzaldoxime | OC1=C(C=C(C=NO)C=C1C(C)(C)C)C(C)(C)C | C15H23NO2
reactant | α,3-dichloro-4-hydroxy-5-(t-butyl)benzaldoxime | ClC(C1=CC(=C(C(=C1)C(C)(C)C)O)Cl)=NO | C11H13Cl2NO2
reactant | allylisothiocyanate | C(C=C)N=C=S | C4H5NS
product | 3-[3-chloro-4-hydroxy-5-(t-butyl)phenyl]-5-isothiocyanatomethyl-2-isoxazoline | ClC=1C=C(C=C(C1O)C(C)(C)C)C1=NOC(C1)CN=C=S | C15H17ClN2O2S
